US05288726
1-(2-Chlorophenyl)-2-propanone
Following a procedure similar to that described in Preparation 9, except that equivalent amounts of 2-chlorobenzaldehyde and nitroethane were used in place of the 2-fluorobenzaldehyde and nitropropane, the title compound was obtained as a brown oil in a yield of 27%.

reactant | 2-chlorobenzaldehyde | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | nitroethane | [N+](=O)([O-])CC | C2H5NO2
reactant | 2-fluorobenzaldehyde | FC1=C(C=O)C=CC=C1 | C7H5FO
reactant | nitropropane | [N+](=O)([O-])CCC | C3H7NO2
product | 1-(2-Chlorophenyl)-2-propanone | yield of 27% | ClC1=C(C=CC=C1)CC(C)=O | C9H9ClO
